US07105273B2
In 80 ml of THF were dissolved 20 g of poly(p-hydroxystyrene), VP-8000 (produced by Nippon Soda Co., Ltd.), and 6.5 g of 4-cyclohexylphenoxyethyl vinyl ether. Thereto, 0.01 g of p-toluenesulfonic acid was added. The resulting mixture underwent reaction for 18 hours at room temperature. The reaction solution was dripped into 5L of distilled water with vigorous stirring, and fine solid particles precipitated out were filtered off and dried. Thus, Polymer (B-32) was obtained.

reactant | poly(p-hydroxystyrene) | 20 g | C#CC1=CC=C(C=C1)O | C8H6O
reactant | THF | 80 ml | C1CCOC1 | C4H8O
product | 4-cyclohexylphenoxyethyl vinyl ether | 6.5 g | C(=C)OCCOC1=CC=C(C=C1)C1CCCCC1 | C16H22O2
